US05081271
a) Methyl 4-(3-Trimethylsilylphenylcarbamoyl)benzoate
To a solution of 135 mg (0.817 mmol) of m-trimethylsilylaniline in 8 ml of dry benzene were added 1.0 ml of dry pyridine and 179 mg (0.900 mmol) of methyl p-chloroformylbenzoate, successively. The mixture was stirred at room temperature for 20 hours. To the reaction mixture was added water and the aqueous solution was extracted with AcOEt. The extract was washed successively with water, sat.eq.NaHCO3 and sat.aq.NaCl, dried and evaporated to give 272 mg of white powder, which was purified by column chlomatography on silica gel (eluent: methylene chloride) to give 266 mg of white powder (yield: 99%). Recrystallization of the powder from a mixture of methylene chloride, n-hexane and chloroform gave 120 mg of white needles, m.p.125-126° C. (yield 45%).

reactant | m-trimethylsilylaniline | 0.817 mmol, 135 mg | C[Si](C=1C=C(N)C=CC1)(C)C | C9H15NSi
reactant | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl p-chloroformylbenzoate | 0.900 mmol, 179 mg | ClC(=O)C1=CC=C(C(=O)OC)C=C1 | C9H7ClO3
reactant | water | O | H2O
solvent | benzene | 8 ml | C1=CC=CC=C1 | C6H6
product | Methyl 4-(3-Trimethylsilylphenylcarbamoyl)benzoate | 272 mg | C[Si](C=1C=C(C=CC1)NC(=O)C1=CC=C(C(=O)OC)C=C1)(C)C | C18H21NO3Si
